US05545644
A. (R)-5-(2-Aminosulphonylethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-5-(2-Aminosulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole (157 mg, 0.5 mmol) was dissolved in absolute ethanol (10 mL) and added to a solution of ethanolic hydrogen chloride (25 ml) (prepared from acetyl chloride (38 μL, 0.53 mmol) and absolute ethanol (25 mL)). 10% palladium-on-carbon (125 mg) was added. This solution was hydrogenated under a hydrogen atmosphere (15 p.s.i.) at room temperature for 18 hours. The resultant reaction mixture was filtered through diatomaceous earth (Celite trademark or Arbacell-trademark)) washed with absolute ethanol and the combined filtrates evaporated in vacuo. The residue was purified by column chromatography on silica gel, eluting with a gradient solvent mixture up to CH2Cl2 : MeOH:NH4OH 93:7:1 to give the title compound as a colourless oil (80 mg, 51%). Anal. Calcd for C16H23N3O2S·1/4 MeOH. 1/3 H2O: C,58.21; H,7.36; N,12.54. Found: C,58.60; H,7.40; N,12.57. [α]25D =+69° (c=0.1, MeOH).

reactant | (R)-5-(2-Aminosulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 0.5 mmol, 157 mg | NS(=O)(=O)C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C16H21N3O2S
reactant | hydrogen chloride | 0.53 mmol, 25 ml | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium-on-carbon | 125 mg | [Pd] | Pd
product | (R)-5-(2-Aminosulphonylethyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 80 mg, 51% | NS(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C16H23N3O2S
